US07855194B2
2-{4-[1-(3,5-Diethoxy-4-fluoro-benzyl)-piperidin-4-ylamino]-6-methoxy-[1,3,5]triazin-2-ylamino}-ethanol
To a solution of 2-[4-methoxy-6-(piperidin-4-ylamino)-[1,3,5]triazin-2-ylamino]-ethanol (0.19 g, 0.71 mmol, 1.0 equiv; intermediate C26) and 3,5-diethoxy-4-fluoro-benzaldehyde (0.17 g, 0.78 mmol, 1.1 equiv; intermediate D12) in ethanol (10 mL) under an atmosphere of Ar was added N-ethyl diisopropylamine (0.28 mL, 0.21 g, 1.63 mmol, 2.29 equiv) and glacial acetic acid (0.10 mL, 0.10 g, 1.67 mmol, 2.35 equiv) and the mixture heated to 50° C. for 2 h. After cooling down to 30° C., sodium cyanoborohydride (0.12 g, 1.91 mmol, 2.7 equiv) was added and the reaction mixture heated again to 50° C. for 1.5 h. It was then poured into crashed ice, the pH of the water phase adjusted to ˜10 by addition of a sat. solution of sodium carbonate and the mixture extracted three times with dichloromethane. The combined organic phases were washed with water, dried over MgSO4, filtered and concentrated by evaporation under reduced pressure. The crude product was purified by column chromatography on silica eluting with a gradient of dichloromethane/methanol to give 0.15 g (45%) of the title compound as light yellow oil. MS (ISP): 465.2 [M+H]+.

reactant | 2-[4-methoxy-6-(piperidin-4-ylamino)-[1,3,5]triazin-2-ylamino]-ethanol | 0.71 mmol, 0.19 g, 1.0 equiv | COC1=NC(=NC(=N1)NC1CCNCC1)NCCO | C11H20N6O2
reactant | 3,5-diethoxy-4-fluoro-benzaldehyde | 0.78 mmol, 0.17 g, 1.1 equiv | C(C)OC=1C=C(C=O)C=C(C1F)OCC | C11H13FO3
reactant | N-ethyl diisopropylamine | 1.63 mmol, 0.28 mL, 0.21 g, 2.29 equiv | C(C)N(C(C)C)C(C)C | C8H19N
reactant | acetic acid | 1.67 mmol, 0.10 mL, 0.10 g, 2.35 equiv | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 1.91 mmol, 0.12 g, 2.7 equiv | C(#N)[BH3-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-{4-[1-(3,5-Diethoxy-4-fluoro-benzyl)-piperidin-4-ylamino]-6-methoxy-[1,3,5]triazin-2-ylamino}-ethanol | 0.15 g, 45% | C(C)OC=1C=C(CN2CCC(CC2)NC2=NC(=NC(=N2)OC)NCCO)C=C(C1F)OCC | C22H33FN6O4
